************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G4_XOR2_N2
* View Name:     schematic
* Netlisted on:  Mar 18 15:57:14 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G4_XOR2_N2
* View Name:    schematic
************************************************************************

.SUBCKT G4_XOR2_N2 A B Vdd Vss Z
*.PININFO A:I B:I Z:O Vdd:B Vss:B
XI15 Z B net2 B Vdd / TIGFET_PCELL_SP15CP15_N2
XI14 net1 Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI13 Z net1 A net1 Vdd / TIGFET_PCELL_SP15CP15_N2
XI12 net1 Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI6 Z A B A Vss / TIGFET_PCELL_SP15CP15_N2
XI4 net2 Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI2 Z net2 net1 net2 Vss / TIGFET_PCELL_SP15CP15_N2
XI0 net2 Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N2
.ENDS

